US04082851
To a stirred mixture of lithium aluminium hydride (24 g) and dry diethyl ether (500 ml), a solution of ethyl 4-benzyl-3-methylthio-5-sulfamylbenzoate (85 g) in dry diethyl ether (3 liters) is dropwise added during 1-1.5 hours. After additional stirring for 3 hours the mixture is cooled, and ethyl acetate (60 ml) followed by water (100 ml) and 4 N hydrochloric acid (1 liter) are very cautiously added dropwise. The organic layer is separated, washed with 4 N hydrochloric acid and with water, and dried in the presence of magnesium sulphate. After filtration, the solvents are removed in vacuo to yield crude 4-benzyl-3-methylthio-5-sulfamylbenzylalcohol. After recrystallization from ethanol it is obtained with a melting point of 190°-192° C.

reactant | lithium aluminium hydride | 24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-benzyl-3-methylthio-5-sulfamylbenzoate | 85 g | C(C1=CC=CC=C1)C1=C(C=C(C(=O)OCC)C=C1S(N)(=O)=O)SC | C17H19NO4S2
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 4 N, 1 liter | Cl | ClH
solvent | diethyl ether | 3 liters | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 4-benzyl-3-methylthio-5-sulfamylbenzylalcohol | C(C1=CC=CC=C1)C1=C(C=C(CO)C=C1S(N)(=O)=O)SC | C15H17NO3S2
